US07101891B2
3-(9-Chloro-3-methyl-4-oxo-5H-isoxazolo[4,3-c]quinolin-5-yl)-5-[(pyridin-3-ylmethyl)-carbamoyl]-piperidine-1-carboxylic acid tert-butyl ester
Add HOAt (30 mg, 0.22 mmol), EDCI (41 mg, 0.22 mmol), Et3N (0.075 mL, 0.54 mmol), and DMAP (5 mg, cat.) to a solution of 5-(9-chloro-3-methyl-4-oxo-5H-isoxazolo[4,3-c]quinolin-5-yl)-piperidine-1,3-dicarboxylic acid 1-tert-butyl ester (83 mg, 0.18 mmol) in DMF (5 mL). Stir overnight at room temperature and concentrate to dryness. Dissolve in 20% iPrOH/CHCl3. Wash 2× sat. aq NaHCO3, wash 2× with brine, dry over Na2SO4, filter, and concentrate to dryness. Purify by radial chromatography using a MeOH/CHCl3 gradient as eluant and concentrate to dryness. Slurry the residue in ether/hexanes and concentrate to dryness to afford the title compound (44 mg, 50%) as a white foam as a mixture of cis isomers. MS(IS) 552.2 (M+); HPLC (100% EtOH 0.2% DMEA on a Chiralpak AD (0.46×25 cm) 1.0 mL/min flow; 20 μL Inj. Vol.; 225 nM) Rt=6.291 min (67.8%), 13.156 min (24.4%).

reactant | HOAt | 0.22 mmol, 30 mg | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | EDCI | 0.22 mmol, 41 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | Et3N | 0.54 mmol, 0.075 mL | CCN(CC)CC | C6H15N
reactant | 5-(9-chloro-3-methyl-4-oxo-5H-isoxazolo[4,3-c]quinolin-5-yl)-piperidine-1,3-dicarboxylic acid 1-tert-butyl ester | 0.18 mmol, 83 mg | C(C)(C)(C)OC(=O)N1CC(CC(C1)N1C(C=2C(C=3C(=CC=CC13)Cl)=NOC2C)=O)C(=O)O | C22H24ClN3O6
catalyst | DMAP | 5 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 3-(9-Chloro-3-methyl-4-oxo-5H-isoxazolo[4,3-c]quinolin-5-yl)-5-[(pyridin-3-ylmethyl)-carbamoyl]-piperidine-1-carboxylic acid tert-butyl ester | 44 mg, 50% | C(C)(C)(C)OC(=O)N1CC(CC(C1)C(NCC=1C=NC=CC1)=O)N1C(C=2C(C=3C(=CC=CC13)Cl)=NOC2C)=O | C28H30ClN5O5
